US06403814B1
To a mixture of 3,4-dihydroxy benzaldehyde (40.80 gms, 0.29 mol) and ethanolic potassium hydroxide (2 N, 320 mL) benzylchloride (37.54 g, 0.29 mol) was added slowly at room temperature. The reaction mixture was stirred overnight under nitrogen. The ethanol was removed on rotavapour and remaining solution treated with ice water. For removal of dibenzyl ether alkaline solution was extracted with diethyl ether (500 ml). Then the aqueous layer was acidified with concentrated hydrochloric acid and extracted thrice with ethyl acetate (800 ml). The organic layer was dried (Na2SO4), filtered and concentrated. The crude product was purified on silica gel column using EtOAc:light petroleum (1:9) as eluent to give 3-bezyloxy-4-hydroxy benzaldehyde (19.80 g, 29%). TLC: Ethyl acetate:light petroleum (1:4), Rf=0.3; m.p: 109-111° C.; 1H NMR (CDCl3, 200 MHz): δ 5.06 (s, 2H), 6.39 (s,1H), 6.95 (d, J=8.0 Hz, 1H), 7.1-7.4 (m, 7H) and 9.57 (s, 1H).

reactant | 3,4-dihydroxy benzaldehyde | 0.29 mol, 40.80 gms | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium hydroxide | 0.29 mol, 2 N, 320 mL, 37.54 g | [OH-].[K+]
product | 3-bezyloxy-4-hydroxy benzaldehyde | 19.80 g, 29% | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1O | C14H12O3
